US06677324B1
350 mg of sodium borohydride are added in portions at 0° C. to 2.0 g of 11β-fluoro-7α-{5-[N-methyl-N-3-(4,4,5,5,5-pentafluoropentylthio)propylamino]pentyl}-3-(tetrahydropyran-2-yloxy)oestra-1,3,5(10)-trien-17-one in 17 ml of THF, 10 ml of ethanol and 4.2 ml of water. After 30 min, the reaction mixture is stirred into ice-water, extracted with ethyl acetate, washed with saturated sodium chloride solution and concentrated in vacuo. 1.7 g of crude 11β-fluoro-7α-{5-[N-methyl-N-3-(4,4,5,5,5-pentafluoropentylthio)propylamino]pentyl}-3-(tetrahydropyran-2-yloxy)oestra-1,3,5(10)-trien-17β-ol are obtained as a foam.

reactant | sodium borohydride | 350 mg | [BH4-].[Na+]
reactant | 11β-fluoro-7α-{5-[N-methyl-N-3-(4,4,5,5,5-pentafluoropentylthio)propylamino]pentyl}-3-(tetrahydropyran-2-yloxy)oestra-1,3,5(10)-trien-17-one | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(CCCSCCCC(C(F)(F)F)(F)F)C)OC1OCCCC1 | C37H53F6NO3S
solvent | THF | 17 ml | C1CCOC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 4.2 ml | O | H2O
product | 11β-fluoro-7α-{5-[N-methyl-N-3-(4,4,5,5,5-pentafluoropentylthio)propylamino]pentyl}-3-(tetrahydropyran-2-yloxy)oestra-1,3,5(10)-trien-17β-ol | 1.7 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(CCCSCCCC(C(F)(F)F)(F)F)C)OC1OCCCC1 | C37H55F6NO3S
